Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bacteremia
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
============================ 
HISTORY OF PRESENT ILLNESS: 
============================ 
Mr. ___ is a ___ homeless man with HIV who returns 
to the emergency department for evaluation of positive blood 
cultures. He is accompanied by his service dog, ___. 

He has a past medical history of HIV and homelessness. He was 
recently admitted with pneumonia treated with azithromycin, and 
his human bite treated with amoxicillin clavulanate. He was seen 
in our hospital from ___ after presenting to ___ 
PCP, found to have fever to 101.8 and tachycardia. He was 
admitted to the medical service, where he had a broad infectious 
workup including a lumbar puncture was treated with empiric 
antimicrobials. He left AGAINST MEDICAL ADVICE with close 
primary care ___.

Since discharge, he grew gram-positive rods in 1 out of 3 
bottles. He reports a single episode of chills but has not taken 
a temperature. He is otherwise felt well and denies focal 
symptoms of infection except for cough. In particular, he has 
not had headache, sore throat, chest pain, trouble breathing, 
abdominal pain, nausea or vomiting, diarrhea, dysuria, or new 
skin rashes or joint pains.

In the ED: 

Initial vital signs were notable for: T 97.7 HR 110 BP 147/108 
RR 16 O2 sat 97% RA 

Exam notable for: Constitutional: Comfortable. Coughing 
throughout interview, dry. Head/eyes: NCAT, PERRLA, EOMI. 
ENT/neck: OP WNL Chest/Resp: Clear to auscultation bilaterally. 
Cardiovascular: RRR, Normal S1/S2, no murmurs/rubs/gallops. 
Abdomen: Soft, nondistended. Nontender. Musc/Extr/Back: No 
clubbing, cyanosis, or edema. ___. Skin: No rash. Warm and 
dry. Neuro: Speech fluent. Psych: Normal mood. Normal mentation.

Labs were notable for stable anemia (Hgb 11.2), mild 
hyponatremia to 134, lactate 1.4, negative UA. 

Studies performed include CXR no focal consolidation. 

Patient was given: Nothing

Consults: None requested

Vitals on transfer: HR 94, BP 135/84, RR 18, O2 98% RA

Upon arrival to the floor, patient reports feeling well. He 
further clarifies his history:

Patient reports that at the beginning of ___ he came to the 
emergency room on ___ with a human bite; someone had pursued him 
on the street at night and they ended up in a scuffle. He was 
sent home with antibiotics and he completed that regimen. When 
he finished the antibiotic course however, he began having new 
symptoms: dry, nonproductive cough, "achey" pains worse in his 
feet, subjective fevers, night sweats, and chills. He went to 
see a doctor on ___ who recorded a temperature of 101.8 and 
prescribed him a "z-pack." By ___ however "my chest was still 
not improving" so he saw his doctor at ___, who was concerned 
about his tachycardia. He was referred to the ED, which led to 
his recent admission at ___ ___. He left ___ because he felt 
overwhelmed in the hospital; he has baseline anxiety and panic 
disorder and his main source of calm is walking his dog but he 
was not allowed to leave the hospital floor. 

He has never had tuberculosis and has never tested positive for 
TB. He had a PPD placed on ___ when he was seen for the human 
bite but he reports that no one read it. He currently lives in a 
shelter and notes many sick people around him. Recently, a 
friend was hospitalized for a cough but he's not sure what the 
diagnosis ultimately was. He has never been incarcerated and 
denies any recent travel.

Today, he feels 90% better than he did a few weeks ago and that 
he is nearly back to baseline, except that he still has a dry 
cough. He thinks he had a fever yesterday but did not record his 
temperature. He continues to have occasional night sweats as 
well. He currently denies headache, chest pain, difficulty 
breathing, abdominal pain, nausea/vomiting, diarrhea, and 
dysuria. 

He reports he did not take his HAART in ___ and for part of 
___ because his belongings were stolen. He is now on a 
different prescribing schedule where he gets new medications 
every week. He thinks his CD4 count in ___ was 245. He also 
notes that he has 5 days to sign paperwork and get a deposit to 
his new apartment so is hoping that he will be discharged before 
that. 
 
Past Medical History:
HIV with AIDS: Fx ___, took Trizivir initially followed by 
TDF/Combivir- in ___ took Truvada/Reyataz/r switched to 
Darunavir/r, Truvada when he needed to be on a PPI for H. pylori 

and GERD
h/o DVT
H/o MRSA cellulitis
Neurosyphilis: x2- ___ and ___ / 2 treatment course- 
hospitalized at ___ and was followed until ___ 
MDD
eosinophilic esophagitis
HPV with HGSIL anus, LGSIL anorectal
herpes zoster
arthralgias
Allergic rhinitis
Thrombocytopenia
 
Social History:
___
Family History:
Mother - Living - CA (unclear type) 
Brother with prostate cancer, Small Cell Lung CA 
Father with throat cancer
Multiple family members with fibromyalgia
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp 98.3, BP 131/81, HR 92, RR 18, O2 95% RA
GENERAL: Alert and interactive. Lying in bed comfortably. In no
acute distress.
HEENT: NCAT. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Minor wheezing in bilateral lower lobes posteriorly.
Decreased air movement. Comfortable on room air. Occasional dry,
nonproductive cough.
ABDOMEN: Non distended, non-tender to deep palpation in all four
quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Left lower
extremity shows 3cm open wound with granulation tissue, no
surrounding erythema (patient reports this is much improved than
a few weeks ago)
SKIN: Warm. No rash.
NEUROLOGIC: Moving all extremities spontaneously. Face 
symmetric.

========================
DISCHARGE PHYSICAL EXAM
========================
Vitals: Tmax 98.4 Tc 97.9 HR 101 BP 122/74 RR 18 SpO2 93% on 
room air
General: Lying comfortably in bed with service dog Olive
Eyes:  Sclera anicteric.
Resp: Clear to auscultation bilaterally, no wheezes, rales,
ronchi.  
CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs,
rubs, gallops. 
GI: Soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
MSK: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  Medial aspect of L calf shows a healing 3-4cm wound with 
surrounding indurated granulation tissues, no tenderness or 
signs of evolving infection.  
Neuro: Speech fluent, no gross deficits. AOx3 and conversant 
 

 
Pertinent Results:
___ 07:50AM BLOOD WBC-7.3 RBC-4.20* Hgb-11.8* Hct-36.1* 
MCV-86 MCH-28.1 MCHC-32.7 RDW-14.3 RDWSD-43.8 Plt ___
___ 07:50AM BLOOD Glucose-99 UreaN-17 Creat-0.8 Na-137 
K-4.6 Cl-101 HCO3-23 AnGap-13
___ 09:30AM BLOOD Lipase-35
___ 07:16AM BLOOD cTropnT-<0.01 proBNP-75
___ 07:16AM BLOOD calTIBC-299 Ferritn-121 TRF-230
___ 07:16AM BLOOD TSH-2.9
___ 09:38AM BLOOD Lactate-1.4 K-4.7

CD4 Count: 301
 
Brief Hospital Course:
Patient is a ___ with history of HIV (inconsistent HAART 
therapy, most recent CD4 from late ___ 278) who presented 
due to GPRs growing in ___ bottles from ___ (aerobic bottle) 
after a recent hospitalization for fevers/tachycardia (left 
AMA). The GPRs speciated as corynebacterium (diphtheroids), most 
consistent with a contaminant. Patient was initially started on 
vancomycin/ampicillin, though subsequently remained 
hemodynamically stable off all antibiotics for more than 
24hours. Subsequent blood cultures showed NGTD. 

=============
ACUTE ISSUES:
=============
#GPR BACTEREMIA, likely contaminant 
#SUBJECTIVE FEVERS - Patient was recently treated for a human 
bite sustained within the past several weeks (completed an 
appropriate course of augmentin). Symptoms have reportedly 
included fever/sweats, malaise, dyspnea, cough, and headaches - 
of note, patient was appearing well and only complaining of mild 
shortness of breath during this admission. Broad infectious 
work-up from recent admission ___ was largely unremarkable 
other than ___ bottles positive for GPRs (speciated as 
corynebacterium/diphtheroids), which was considered to be most 
likely a contaminant and not representative of a true pathogen. 
T-lymphocyte subset subsequently returned, CD4 301. Of note, 
recent CSF studies showed 66RBC in tube 4 and elevated protein 
(53, possibly related to underlying HIV), HSV PCR NEGATIVE. 
Patient remained afebrile throughout admission, was initially 
started on vancomycin/ampicillin (treating enterococcus in urine 
in addition to the possibility of listeria), though remained 
afebrile after discontinuation ___. Of note UA was unremarkable 
and patient denied any urinary symptoms, ___ CFU 
enterococcus grew from UCx ___.
[] Complete 7 day course of Macrobid for Enterococcus UTI

#SINUS TACHYCARDIA - Ongoing tachycardia, largely asymptomatic 
other
than mild SOB, which patient attributed to the humid clime. No 
clinical concern for DVT at this time (NB patient has a hx of 
PICC associated DVT). Patient was monitored on telemetery 
throughout admission. Trop/BNP unremarkable. TSH returned at 2.9 
Patient was given 1L IVF bolus, HRs persistently 90-low 100s. No 
further issues this admission. 

#WEIGHT LOSS
Patient reports approximately 10 pound unintentional weight loss 
over the past month despite trying to eat more. Nutrition was 
consulted, though unfortunately could not see patient over the 
weekend. Further work-up as an outpatient, ensure age 
appropriate cancer screening.

#HIV
On HAART therapy, last ___ 278, previously drawn 
T-lymphcyte subset ___ returned with CD4 301. HIV viral load 
1.5. He was continued on home dolutegravir 50mg PO daily and 
descovy 200mg-25mg PO daily
[] Discontinued Dapsone given CD4 of 301

#NORMOCYTIC ANEMIA
Hb 11.2 on admission, at recent baseline. No bleeding and 
patient remained hemodynamically stable. Improved sinus 
tachycardia as above. Iron studies showed Fe 92, Fe sat 30.7%. 
Outpatient colonoscopy should be arranged for age appropriate 
cancer screening.

#LFT ABNORMALITY
AST 48 ALT 13 on admission, most likely ___ hemolysis, 
subsequently wnl. Prior heavy EtOH use, though not recently. 
___ viral hepatology labs showed positive HCV Ab. Coags 
unremarkable. HCV viral load pending at time of discharge.
[] f/u HCV viral load

===============
CHRONIC ISSUES:
===============
#DEPRESSION
#ANXIETY
- Support dog ___ is at bedside throughout admission
- Continued home clonazepam 0.5mg PO BID, written PRN

#ALLERGIC RHINITIS
- Continued home cetirizine 10mg PO daily PRN allergies

#ASTHMA
- Held home proair and beclomethasone dipropionate as they are 
nonformulary, gave fluticasone while inpatient
- Continued albuterol inhaler q6h PRN SOB
- All home inhalers were restarted at discharge
- Consider outpatient PFTs, sats 92-95% on RA throughout 
admission
- Encourage smoking cessation

#EOSINOPHILIC ESOPHAGITIS
- Continued home diphenhydramine 25mg PO TID w/meals PRN 
eosinophilic esophagitis

#BPH
- Continued home tamsulosin 0.4mg PO QHS

TRANSITIONAL ISSUES
===================
[] Complete 7 day course of Macrobid for Enterococcus UTI (end 
___
- Please f/u pending acid fast cultures (x3) from recent 
admission, smears were all NEGATIVE
- Please follow up pending CMV/HCV viral loads
- Please ensure that patient has a Quantiferon-Gold test sent
- Please ensure age appropriate cancer screening
- Please note that dapsone was discontinued, CD4>300
- Consider outpatient PFTs
- Encourage smoking cessation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LOPERamide 2 mg PO QID:PRN loose stools 
2. Cetirizine 10 mg PO DAILY:PRN allergies 
3. ClonazePAM 0.5 mg PO BID 
4. Dapsone 100 mg PO DAILY 
5. DiphenhydrAMINE 25 mg PO TID:PRN with meals if needed for 
eosinophilic esophagitis 
6. Dolutegravir 50 mg PO DAILY 
7. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
8. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
9. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q12H:PRN 
10. Qvar RediHaler (beclomethasone dipropionate) 40 
mcg/actuation inhalation DAILY 
11. Tamsulosin 0.4 mg PO QHS 
12. ValACYclovir 1000 mg PO DAILY:PRN HSV 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 7 
Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*12 Capsule Refills:*0 
2.  Cetirizine 10 mg PO DAILY:PRN allergies  
3.  ClonazePAM 0.5 mg PO BID  
4.  DiphenhydrAMINE 25 mg PO TID:PRN with meals if needed for 
eosinophilic esophagitis  
5.  Dolutegravir 50 mg PO DAILY  
6.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
7.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
8.  LOPERamide 2 mg PO QID:PRN loose stools  
9.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q12H:PRN  
10.  Qvar RediHaler (beclomethasone dipropionate) 40 
mcg/actuation inhalation DAILY  
11.  Tamsulosin 0.4 mg PO QHS  
12.  ValACYclovir 1000 mg PO DAILY:PRN HSV  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
=================
- Positive blood culture, the result of contaminant
- Sinus tachycardia
- Enterococcus UTI
Secondary Diagnoses
===================
- HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
-You were admitted because one of the blood cultures from your 
recent admission returned positive, raising the possibility of a 
serious blood stream infection (bacteremia). 

What was done for me while I was in the hospital?  
- You were started on antibiotics to treat the possible blood 
stream infection, however, these were stopped as we learned that 
the positive blood culture was more likely the result of a 
contaminant (sometimes harmless bacteria from the skin can 
accidentally make its way into the microbiology lab).
- You were given intravenous fluids for a fast heart rate, which 
improved during your stay. 
- Your CD4 count returned at 301. 
- You were found to have a urinary tract infection, and started 
on antibiotics for this.

What should I do when I leave the hospital?  
-Please continue to take all of your medications as prescribed, 
you have not been started on any new medications.  It is very 
important that you take you HIV medications every day.
-Please be sure to schedule an appointment with your primary 
care doctor this week for ___.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___